US04728645
5-(p-Tolyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine hydrochloride
A solution of 0.36 g of 5-(p-hydroxymethylphenyl)imidazo[1,5-a]pyridine in 25 ml of ethanol and 6.4 ml of concentrated hydrochloric acid is hydrogenated with 0.15 g of 10% palladium on charcoal at 40 psi of hydrogen and 60° for 4 h. The reaction mixture is filtered and evaporated and the residue is partitioned between methylene chloride and sodium bicarbonate solution. The organic phase is dried over sodium sulfate and evaporated to an oil which is purified by preparative layer chromatography on silica with ethyl acetate. The hydrochloride salt is prepared in acetone with 1.1 molar equivalents of ethereal hydrogen chloride to yield the title compound, m.p. 173°-175°.

reactant | 5-(p-hydroxymethylphenyl)imidazo[1,5-a]pyridine | 0.36 g | OCC1=CC=C(C=C1)C1=CC=CC=2N1C=NC2 | C14H12N2O
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 6.4 ml | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.15 g | [Pd] | Pd
product | 5-(p-Tolyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine hydrochloride | Cl.C1(=CC=C(C=C1)C1CCCC=2N1C=NC2)C | InChI=1S/C14H16N2.ClH/c1-11-5-7-12(8-6-11)14-4-2-3-13-9-15-10-16(13)14;/h5-10,14H,2-4H2,1H3;1H
